US05025025
A mixture of 8.7 g of 5-carbomethoxy-8-(3-pyridyl)-oct-7-enenitrile and 4.35 g of 5% rhodium on alumina in 87 mL of methanol saturated with ammonia (7.4N) is hydrogenated at room temperature for about 6 hours. Additional catalyst is added if required. The reaction mixture is then worked up to yield methyl 6-amino-2-[3-(3-pyridyl)propyl]hexanoate.

reactant | 5-carbomethoxy-8-(3-pyridyl)-oct-7-enenitrile | 8.7 g | C(=O)(OC)C(CCCC#N)CC=CC=1C=NC=CC1 | C15H18N2O2
reactant | ammonia | 7.4N | N | H3N
solvent | methanol | 87 mL | CO | CH4O
catalyst | rhodium on alumina | 4.35 g | [Rh] | Rh
product | methyl 6-amino-2-[3-(3-pyridyl)propyl]hexanoate | NCCCCC(C(=O)OC)CCCC=1C=NC=CC1 | C15H24N2O2
